US07750003B2
N-Methyl-2-[[2-[4-(methylcarbamoylamino)phenyl]-6-[(3S)-3-methylmorpholin-4-yl]pyrimidin-4-yl]methylsulfonyl]acetamide
N-Methyl-2-[[2-[4-(methylcarbamoylamino)phenyl]-6-[(3S)-3-methylmorpholin-4-yl]pyrimidin-4-yl]methylsulfanyl]acetamide (0.35 mmol) was dissolved in 1,4-Dioxane (5 mL) and water (1 mL). m-CPBA (75%) (121 mg) followed immediately by sodium permanganate (140 mg) were added to the solution and the reaction stirred at RT for 1 h. Further m-CPBA (75%) (121 mg) followed immediately by sodium permanganate (140 mg) were added to the solution and stirred at RT for 1 h. Again further m-CPBA (75%) (121 mg) followed immediately by sodium permanganate (140 mg) were added and the reaction stirred at RT for 1 h. The reaction was loaded onto a SCX-3 (10 g) column, which was washed with methanol and the product eluted with 7N ammonia in methanol. The material was further purified by prep-HPLC (basic) to give the desired material (30 mg) as a white solid.

reactant | N-Methyl-2-[[2-[4-(methylcarbamoylamino)phenyl]-6-[(3S)-3-methylmorpholin-4-yl]pyrimidin-4-yl]methylsulfanyl]acetamide | 0.35 mmol | CNC(CSCC1=NC(=NC(=C1)N1[C@H](COCC1)C)C1=CC=C(C=C1)NC(NC)=O)=O | C21H28N6O3S
reactant | m-CPBA | 121 mg | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
reactant | sodium permanganate | 140 mg | [Mn](=O)(=O)(=O)[O-].[Na+]
reactant | m-CPBA | 121 mg | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
reactant | sodium permanganate | 140 mg | [Mn](=O)(=O)(=O)[O-].[Na+]
reactant | m-CPBA | 121 mg | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
reactant | sodium permanganate | 140 mg | [Mn](=O)(=O)(=O)[O-].[Na+]
reactant | water | 1 mL | O | H2O
solvent | 1,4-Dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | N-Methyl-2-[[2-[4-(methylcarbamoylamino)phenyl]-6-[(3S)-3-methylmorpholin-4-yl]pyrimidin-4-yl]methylsulfonyl]acetamide | 30 mg | CNC(CS(=O)(=O)CC1=NC(=NC(=C1)N1[C@H](COCC1)C)C1=CC=C(C=C1)NC(NC)=O)=O | C21H28N6O5S
